US04843100
In 300 ml of dimethylformamide was dissolved 55 g of thiophenol, and 55 g of triethylamine was added to the solution. Trifluorochloroethylene was passed into the mixture over the period of 2 hours under heating with stirring at 60° C. (trifluorochloroethylene was generated by reacting 187 g of 1,1,2-trifluorotrichloroethane with 130 g of powdered zinc in ethanol in accordance with the conventional method). After the conclusion of the reaction, the reaction mixture was concentrated to dryness under reduced pressure, and the resulting oily material was distilled under reduced pressure to give 55 g of (1,1,2-trifluoro-2-chloroethyl)phenylsulfide as a colorless liquid having a boiling point of 52°-53° C./0.2 mmHg.

reactant | thiophenol | 55 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 55 g | C(C)N(CC)CC | C6H15N
reactant | Trifluorochloroethylene | FC(=C(Cl)F)F | C2ClF3
reactant | 1,1,2-trifluorotrichloroethane | 187 g | FC(C(F)(Cl)Cl)(F)Cl | C2Cl3F3
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
catalyst | zinc | 130 g | [Zn] | Zn
product | (1,1,2-trifluoro-2-chloroethyl)phenylsulfide | 55 g | FC(C(Cl)F)(F)SC1=CC=CC=C1 | C8H6ClF3S
